US06100272
4'-Amino-2,3'-dimethylbiphenyl-4-carboxylic acid
The title compound was prepared from 4-bromo-2-methylaniline and 4-borono-3-methylbenzoic acid (D29) using a similar procedure to Description 1 as a brown solid (41%). This was used in the next step without further purification.

reactant | 4-bromo-2-methylaniline | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | 4-borono-3-methylbenzoic acid | B(O)(O)C1=C(C=C(C(=O)O)C=C1)C | C8H9BO4
product | 4'-Amino-2,3'-dimethylbiphenyl-4-carboxylic acid | NC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)O)C)C | C15H15NO2
